US04665070
A. Synthesis of 7-Amino-2-ethoxy-4H-3,1-benzoxazin-4-one, and Related Compounds of Formula IB
7-Nitro-2-ethoxy-4H-3,1-benzoxazin-4-one (1 gm, 4.2 m mol.), 10% Pd-C (1 gm), and cyclohexene (2.5 ml) were refluxed in dry benzene (50 ml) under anhydrous conditions for 3 hours. The hot reaction mixture was filtered immediately through celite and the catalyst on celite was washed with hot benzene (25 ml). The combined filtrate was evaporated to dryness under reduced pressure. The residue was stirred in anhydrous ether (30 ml) to give 410 mg (47%) of the title compound, 7-amino-2-ethoxy-4H-3,1-benzoxazin-4-one, as a pale yellow powder, after filtration. The product can be further purified by chromatography on silica gel column, if necessary (silica gel 60; EtOAc:pet. ether=1:2); m.p. 185°-187° C.; IR (KBr): νmax 3425, 3330 cm-1 (NH2), 1740 cm-1 (C=O), 1640 cm-1 (C=N); N'NMR (CDCl3): δ 1.43 ppm (t, J=7.1 Hz, 3H, OCH2CH3), 4.30 ppm (b, 2H, NH2), 4.75 ppm (q, J=7.1 Hz, 2H, OCH2CH3), 6.5-7.98 ppm (m, 3H, aromatic protons).

reactant | 7-Nitro-2-ethoxy-4H-3,1-benzoxazin-4-one | 1 gm | [N+](=O)([O-])C1=CC2=C(C(OC(=N2)OCC)=O)C=C1 | C10H8N2O5
reactant | cyclohexene | 2.5 ml | C1=CCCCC1 | C6H10
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
catalyst | Pd-C | 1 gm | [Pd] | Pd
product | 7-Amino-2-ethoxy-4H-3,1-benzoxazin-4-one | 410 mg, 47% | NC1=CC2=C(C(OC(=N2)OCC)=O)C=C1 | C10H10N2O3
